US04933333
1.27 g 1-(di-p-anisylmethyl)-3-(1-p-nitrobenzyloxycarbonyloxyethyl)-4-[3-(p-nitrobenzyloxycarbonyl)-2-oxo-3-diazopropyl]-2-azetidinone was dissolved in 50 ml of acetonitrile-water (9:1 by volume), and 2.7 g of ceric ammonium nitrate was added thereto all at once under ice-cooling. After vigorously stirring, the mixture was further stirred at room temperature for 30 minutes. Cool water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was washed with water and dried over sodium sulfate. The solvent was distilled off, and the resulting residue was purified by silica gel chromatography to obtain 3-(1-p-nitrobenzyloxycarbonyloxyethyl)-4-[3-(p-nitrobenzyloxycarbonyl)-2-oxo-3-diazopropyl]-2-azetidinone.

reactant | 1-(di-p-anisylmethyl)-3-(1-p-nitrobenzyloxycarbonyloxyethyl)-4-[3-(p-nitrobenzyloxycarbonyl)-2-oxo-3-diazopropyl]-2-azetidinone | 1.27 g | C(C1=CC=C(C=C1)OC)C(N1C(C(C1CC(C(=[N+]=[N-])C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])=O)C(C)OC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])=O)CC1=CC=C(C=C1)OC | C41H39N5O13
reactant | water | O | H2O
solvent | acetonitrile water | 50 ml | C(C)#N.O
product | 3-(1-p-nitrobenzyloxycarbonyloxyethyl)-4-[3-(p-nitrobenzyloxycarbonyl)-2-oxo-3-diazopropyl]-2-azetidinone | [N+](=O)([O-])C1=CC=C(COC(=O)OC(C)C2C(NC2CC(C(=[N+]=[N-])C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])=O)=O)C=C1 | C24H21N5O11
